US07612114B2
(S)-6-{2-{[4-(2-Dimethylaminoethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-N,N-dimethylacetamide (10 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (6.9 mg) was obtained.

reactant | pivalic acid (S)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-chloro-N,N-dimethylacetamide | 10 mg | ClCC(=O)N(C)C | C4H8ClNO
product | (S)-6-{2-{[4-(2-Dimethylaminoethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.9 mg | CN(CCOC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@@H]2CC=3C=CC(=CC3CC2)O)C=C1)C | C30H38N2O3
